US04348538
4-Fluoro-3-bromo-benzoyl cyanide
177 g (3.6 moles) of sodium cyanide and 663 g (3 moles) of 3-bromo-4-fluorobenzoyl fluoride were together initially introduced into the reaction vessel and were heated. At about 80° C., an exothermic reaction started, which had to be restrained somewhat by slight cooling. The temperature was allowed to rise to 100° C. and the mixture was stirred at 100° C. for 1 hour. The exothermic reaction continued for about 10 minutes, and additional heat had then to be supplied to the mixture. The mixture was then cooled and the salts were filtered off and destroyed in saturated iron sulphate solution and the filtrate was distilled on a column. 507 g (74% of theory) of a colorless oil with a boiling point of 126° C./20 mm Hg were thus obtained.

reactant | sodium cyanide | 3.6 moles, 177 g | [C-]#N.[Na+]
reactant | 3-bromo-4-fluorobenzoyl fluoride | 3 moles, 663 g | BrC=1C=C(C(=O)F)C=CC1F | C7H3BrF2O
product | 4-Fluoro-3-bromo-benzoyl cyanide | FC1=C(C=C(C(=O)C#N)C=C1)Br | C8H3BrFNO
